US04116961
Methyl 2-methanesulfonyl-3-phenylbenzoate
An ethereal solution (1 liter) containing 50.0 g (0.22 mol) of methyl 2-hydroxy-3-phenylbenzoate, 0.25 mole of methanesulfonyl chloride and 0.25 mole of Et3N was allowed to react at room temperature for 18 hours. The reaction mixture was washed with 1 N NaOH (1 × 1 liter) and H2O (1 × 500 ml). After drying with MgSO4 the ether solution was evaporated to give a yellow solid; yield 61.9 g (91.7%), mp. 101°-115°. Recrystallization of the crude product from benzene-hexane gave the analytical sample, mp. 120°-124°.

reactant | methyl 2-hydroxy-3-phenylbenzoate | 0.22 mol, 50.0 g | OC1=C(C(=O)OC)C=CC=C1C1=CC=CC=C1 | C14H12O3
reactant | methanesulfonyl chloride | 0.25 mole | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 0.25 mole | CCN(CC)CC | C6H15N
product | Methyl 2-methanesulfonyl-3-phenylbenzoate | CS(=O)(=O)C1=C(C(=O)OC)C=CC=C1C1=CC=CC=C1 | C15H14O4S
